US08247415B2
Step E: N-{1-[{[tert-butyl(dimethyl)silyl]oxy}(3-chlorophenyl)methyl]-prop-2-en-1-yl}2-methylpropane-2-sulfinamide
To a solution of 2.4 g (6.20 mmol) of N-[(1E)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(3-chlorophenyl)ethylidene]-2-methylpropane-2-sulfinamide in 20 mL anhydrous THF cooled to 0° C. under nitrogen atmosphere (from Step D) was added a 1.6 M solution of vinyl magnesium chloride in THF (3.90 mL, 6.2 mmol) via syringe and the resulting mixture stirred for 1 h. The mixture was allowed to warm to room temperate and stirred for an additional hour. The reaction was quenched with saturated solution of ammonium chloride and extract with ethyl acetate. Combine organics, dry over magnesium sulfate, filter and concentrate under vacuum. The residue was purified by Horizon MPLC, with a 40M+ silica gel column, eluting with a gradient eluent system of 0-35% ethyl acetate in hexane to afford all four diastereomers as single isomers.

reactant | N-[(1E)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-(3-chlorophenyl)ethylidene]-2-methylpropane-2-sulfinamide | 6.20 mmol, 2.4 g | [Si](C)(C)(C(C)(C)C)OC(\C=N\S(=O)C(C)(C)C)C1=CC(=CC=C1)Cl | C18H30ClNO2SSi
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 6.2 mmol, 3.90 mL | C1CCOC1 | C4H8O
product | N-{1-[{[tert-butyl(dimethyl)silyl]oxy}(3-chlorophenyl)methyl]-prop-2-en-1-yl}2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OC(C(C=C)NS(=O)C(C)(C)C)C1=CC(=CC=C1)Cl | C20H34ClNO2SSi
